US09399638B2
Intermediate-15: 5-(2-Chloro-6-methylpyridin-4-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one
Step-2: 2-Chloro-6-methylisonicotinohydrazide: To a (0° C.) cooled solution of step-1 intermediate (3.0 g, 10.5 mmol) in DCM (15 mL) was added trifluoroacetic acid (15 mL). After stirring for 2 hat RT, solvent was evaporated under vacuum. Water (20 mL) was added to the resulting residue followed by ethyl acetate (30 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with brine (20 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum and the crude product was purified by flash column chromatography to afford 1.80 g (92%) of the title compound as white solid.

reactant | 2-Chloro-6-methylisonicotinohydrazide | ClC=1C=C(C(=O)NN)C=C(N1)C | C7H8ClN3O
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Chloro-6-methylpyridin-4-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one | 1.80 g, 92% | ClC1=NC(=CC(=C1)C1=NN(C(O1)=O)C)C | C9H8ClN3O2
